US06919338B2
2-nitro-4-((1-tert-butyloxycarbonylpiperidin-4-yl)methoxy)-5-methoxybenzonitrile
2-nitro-4-hydroxy-5-methoxybenzonitrile (388 mg, 2 mmol) in DMF (5 ml) and acetonitrile (5 ml) was reacted with 4-(4-tolylsulphonyloxymethyl)-1-tert-butyloxycarbonyl-piperidine (738 mg, 2 mmol) and K2CO3 (414 mg, 3 mmol) at 110° C. for 3.5 hours. The mixture was diluted with water, extracted with ethylacetate, washed HCl (2N), dried over MgSO4, evaporated to give title compound (630 mg, 80%).

reactant | 2-nitro-4-hydroxy-5-methoxybenzonitrile | 2 mmol, 388 mg | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)O)OC | C8H6N2O4
reactant | 4-(4-tolylsulphonyloxymethyl)-1-tert-butyloxycarbonyl-piperidine | 2 mmol, 738 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C)C | C18H27NO5S
reactant | K2CO3 | 3 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-nitro-4-((1-tert-butyloxycarbonylpiperidin-4-yl)methoxy)-5-methoxybenzonitrile | 630 mg, 80% | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C19H25N3O6
